US04058602
HCl was hydrolyzed with 6N HCl and produced 5,6-dihydro-5-azacytosine hydrochloride. This has a melting point of 259°-26l°. In order to show the conformity of structure, 5-azacytosine hydrochloride, which is commercially available, was reduced with sodium borohydride to make 5,6- dihydro-5-azacytosine. This compound had a melting point of 189°-190°. HCl acid addition salt was formulated from the free base by treatment with HCl to produce 5,6-dihydro-5-azacytosine hydrochloride with a melting point of 259°-261° which is the same melting point as was obtained from the hydrolysis reaction. There was no depression of the mixed melting point.

reactant | 5-azacytosine hydrochloride | Cl.N1C(=O)N=C(N)N=C1
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 5,6- dihydro-5-azacytosine | N1C(=O)N=C(N)NC1 | C3H6N4O
reactant | HCl | Cl | ClH
product | 5,6-dihydro-5-azacytosine hydrochloride | Cl.N1C(=O)N=C(N)NC1 | InChI=1S/C3H6N4O.ClH/c4-2-5-1-6-3(8)7-2;/h1H2,(H4,4,5,6,7,8);1H
